US07569536B2
Isonicotinoyl chloride hydrochloride (466 mg, 2.61 mmol, commercially available product) and triethylamine (600 μl, 4.30 mmol) were sequentially added at 0° C. to a dichloromethane (5 ml) solution of (S)-2-(2-methyl-1-piperidinyl)-5-(trifluoromethyl)aniline (223 mg, 0.863 mmol), obtained as described in [Referential Example 2-2]. The resulting mixture was warmed to room temperature and stirred for 19.5 hours. Water was added to the mixture, and the resulting mixture was extracted three times with ethyl acetate. The obtained organic layer was washed with a saturated sodium chloride solution, dried over anhydrous sodium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (25 g, hexane/ethyl acetate=1.5/1). Thus, (S)-N-[2-(2-methyl-1-piperidinyl)-5-(trifluoromethyl)phenyl]isonicotinamide (GIF-0613) (293 mg, 93.4%) was yielded as an colorless oily material.

reactant | Isonicotinoyl chloride hydrochloride | Cl.C(C1=CC=NC=C1)(=O)Cl
reactant | triethylamine | 4.30 mmol, 600 μl | C(C)N(CC)CC | C6H15N
reactant | dichloromethane | 5 ml | ClCCl | CH2Cl2
reactant | (S)-2-(2-methyl-1-piperidinyl)-5-(trifluoromethyl)aniline | 0.863 mmol, 223 mg | C[C@@H]1N(CCCC1)C1=C(N)C=C(C=C1)C(F)(F)F | C13H17F3N2
solvent | Water | O | H2O
product | (S)-N-[2-(2-methyl-1-piperidinyl)-5-(trifluoromethyl)phenyl]isonicotinamide | 293 mg, 93.4% | C[C@@H]1N(CCCC1)C1=C(C=C(C=C1)C(F)(F)F)NC(C1=CC=NC=C1)=O | C19H20F3N3O
